US06319922B1
4-Benzyloxybenzylamine
To a stirred suspension of lithium alminium hydride (1.75 g, 0.46 mol) in THF (800 ml) at 0° was added 4-benzyloxybenzonitrile (43.0 g, 0.23 mol) in THF (600 ml), dropwise over 4 h. The reaction mixture was allowed to warm to room temperature and stirred for 16 h and then cooled to 0°. Water (30 ml) was added and 2M sodium hydroxide solution (80 ml) was then added dropwise with stirring. The resulting precipitate was filtered off washed with diethyl ether (100 ml) and toluene (200 ml). The fltrate was washed with sodium chloride solution, dried over sodium sulphate and the solvent removed by evaporation in vacuo, to give a waxy solid. The two soilds were combined to give the title compound (48.26 g, 110%). 1H NMR (CDCl3) δ 7.46-7.25 (5H, br m), 7.23 (2H, d, J 8.75 Hz), 6.95 (2H, d, J 8.7 Hz), 5.07 (2H, s), 3.81 (2H, s) and 1.50 (2H, br s). MS (ES) m/e 197 [M+NH4]+.

reactant | lithium | [Li] | Li
reactant | hydride | 0.46 mol, 1.75 g | [H-]
reactant | 4-benzyloxybenzonitrile | 0.23 mol, 43.0 g | C(C1=CC=CC=C1)OC1=CC=C(C#N)C=C1 | C14H11NO
reactant | sodium hydroxide | 2M, 80 ml | [OH-].[Na+]
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | Water | 30 ml | O | H2O
product | 4-Benzyloxybenzylamine | 48.26 g, 110% | C(C1=CC=CC=C1)OC1=CC=C(CN)C=C1 | C14H15NO
